US08975252B2
Potassium carbonate (276 mg), phenylboronic acid (122 mg), dichlorobis(triphenylphosphine)palladium(II) (175 mg) and water (132 μl) were added to a solution of tert-butyl {[4-bromo-1-(3-methoxypropyl)-1H-indazol-3-yl]methyl}cyclopropylcarbamate (218 mg) in 1,2-dichloroethane (11 ml) and the mixture was stirred under argon atmosphere at 80° C. for 1.5 hours. The reaction mixture was cooled to room temperature, poured into ice water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=20/1 to 7/3) to give tert-butyl cyclopropyl{[1-(3-methoxypropyl)-4-phenyl-1H-indol-3-yl]methyl}carbamate (212 mg) as a yellow oil.

reactant | Potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 122 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | water | 132 μl | O | H2O
reactant | tert-butyl {[4-bromo-1-(3-methoxypropyl)-1H-indazol-3-yl]methyl}cyclopropylcarbamate | 218 mg | BrC1=C2C(=NN(C2=CC=C1)CCCOC)CN(C(OC(C)(C)C)=O)C1CC1 | C20H28BrN3O3
solvent | 1,2-dichloroethane | 11 ml | ClCCCl | C2H4Cl2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 175 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl cyclopropyl{[1-(3-methoxypropyl)-4-phenyl-1H-indol-3-yl]methyl}carbamate | 212 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CN(C2=CC=CC(=C12)C1=CC=CC=C1)CCCOC | C27H34N2O3
